US06284785B1
(RS)-1-(4-Chloro-benzenesulfonyl)-2-phenyl-pyrrolidine
The title compound, pale pink solid, m.p. 119° C. and MS: m/e=321 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-phenyl-pyrrolidine and 4-chloro-benzenesulfonyl chloride.

reactant | (RS)-2-phenyl-pyrrolidine | C1(=CC=CC=C1)C1NCCC1 | C10H13N
reactant | 4-chloro-benzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (RS)-1-(4-Chloro-benzenesulfonyl)-2-phenyl-pyrrolidine | ClC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C1=CC=CC=C1 | C16H16ClNO2S
